US04956382
(C) N-Methyl-N-(5-aminobenzoxazol-2-ylmethyl)-4-aminophenethylamine
N-Methyl-N-(5-nitrobenzoxazol-2-ylmethyl)-4-nitrophenethylamine (0.78 g,2.2 mmole) in ethanol (50 ml) containing Raney nickel (0.1 g) was stirred under a hydrogen atmosphere (50 psi=344.7 kPa) for 18 hours, by which time thin layer chromatographic analysis showed that all the starting material had been consumed [silica chromatography plates using methylene chloride/methanol (19:1) as the solvent]. The reaction mixture was then filtered and evaporated to give an oil which was azeotroped with toluene and triturated with ether. The decanted ether was evaporated to give the title compound as an oil, which was used directly without further purification, yield 0.45 g.

reactant | N-Methyl-N-(5-nitrobenzoxazol-2-ylmethyl)-4-nitrophenethylamine | 2.2 mmole, 0.78 g | CN(CC=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-])CCC2=CC=C(C=C2)[N+](=O)[O-] | C17H16N4O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Raney nickel | 0.1 g | [Ni] | Ni
product | N-Methyl-N-(5-aminobenzoxazol-2-ylmethyl)-4-aminophenethylamine | CN(CC=1OC2=C(N1)C=C(C=C2)N)CCC2=CC=C(C=C2)N | C17H20N4O
